US06358980B1
4-(4-but-2-ynyloxybenzenesulfonyl)-N-hydroxy-1-(2-thienylcarbonyl)-4-piperidinecarboxamide was prepared following the procedure Example 64 (step 6). Starting from 4-(4-but-2-ynyloxybenzenesulfonyl)-1-(2-thienylcarbonyl)-4-piperidinecarboxylic acid (335 mg, 0.75 mmol) in dimethylformamide (7 ml), 1-hydroxybenzotriazole (121 mg, 0.90 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (201 mg, 1.05 mmol), N-methylmorpholine (0.124 ml, 1.13 mmol), and hydroxylamine (0.229 ml, 3.75 mmol), 216 mg (62%) of the product was isolated as a solid. HR-MS: m/z Calculated for C21H22N2O6S2 463.0992; Found 463.0988.

reactant | 4-(4-but-2-ynyloxybenzenesulfonyl)-1-(2-thienylcarbonyl)-4-piperidinecarboxylic acid | 0.75 mmol, 335 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C=1SC=CC1)C(=O)O | C21H21NO6S2
reactant | 1-hydroxybenzotriazole | 0.90 mmol, 121 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.05 mmol, 201 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 1.13 mmol, 0.124 ml | CN1CCOCC1 | C5H11NO
reactant | hydroxylamine | 3.75 mmol, 0.229 ml | NO | H3NO
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 4-(4-but-2-ynyloxybenzenesulfonyl)-N-hydroxy-1-(2-thienylcarbonyl)-4-piperidinecarboxamide | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C=1SC=CC1)C(=O)NO | C21H22N2O6S2
